US06310070B1
A dimethyl sulfoxide solution of 4.29 ml (30 mmol) veratryl alcohol (3,4-dimethoxybenzyl alcohol) was treated in 22.86 ml (180 mmol) trimethylsilyl chloride at room temperature for 1 hour. The resulting product was dissolved in ethyl acetate, washed with distilled water and saturated brine, and dried over anhydrous magnesium sulfate. After concentration under vacuum, the resulting residue was reacted with 2.14 g (10 mmol) of 4-benzylideneamino-5-imidazole carboxamide and 5.52 (40 mmol) of potassium carbonate in the same manner as in Reference Example 2 to obtain 1.73 g of 4-amino-1-(3,4-dimethoxybenzyl)-5-imidazolecarboxamide (yield 63%).

reactant | veratryl alcohol | 30 mmol, 4.29 ml | C(C1=CC(OC)=C(OC)C=C1)O | C9H12O3
reactant | trimethylsilyl chloride | 180 mmol, 22.86 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 4-benzylideneamino-5-imidazole carboxamide | 10 mmol, 2.14 g | C(C1=CC=CC=C1)=NC=1N=CNC1C(=O)N | C11H10N4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 4-amino-1-(3,4-dimethoxybenzyl)-5-imidazolecarboxamide | 1.73 g, yield 63% | NC=1N=CN(C1C(=O)N)CC1=CC(=C(C=C1)OC)OC | C13H16N4O3
